US07427632B2
3-Chloro-N-[4-(4-isopropylpiperazin-1-yl)-1-phenylbutyl]-1H-indole-6-carboxamide
Using coupling method A, crude 4-(4-isopropylpiperazin-1-yl)-1-phenylbutylamine (530 mg, 1.9 mmol) and 3-chloro-indole-6-carboxylic acid (376 mg, 1.9 mmol) afforded, after purification (SiO2: 10:10:1 hexane:EtOAc:isopropyl-amine), 184 mg (21%) of the title compound.

reactant | 4-(4-isopropylpiperazin-1-yl)-1-phenylbutylamine | 1.9 mmol, 530 mg | C(C)(C)N1CCN(CC1)CCCC(C1=CC=CC=C1)N | C17H29N3
reactant | 3-chloro-indole-6-carboxylic acid | 1.9 mmol, 376 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 3-Chloro-N-[4-(4-isopropylpiperazin-1-yl)-1-phenylbutyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)NC(CCCN1CCN(CC1)C(C)C)C1=CC=CC=C1 | C26H33ClN4O
